US04442125
A liquefied composition containing 5 weight percent of sodium oleate, 5 weight percent of ethanol, enough sodium dihydrogen phosphate to obtain a pH of 9.8, 0.1 weight percent of sodium benzoate, and the remainder sterile distilled water (q.s.). The liquefied composition (termed GHT 7701) was placed in amber glass bottles.

reactant | sodium oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | sodium benzoate | C(C1=CC=CC=C1)(=O)[O-].[Na+] | InChI=1S/C7H6O2.Na/c8-7(9)6-4-2-1-3-5-6;/h1-5H,(H,8,9);/q;+1/p-1
